US06617339B1
3-(4-(4-((2S,4R)-1-Acetyl-4-hydroxy-2-pyrrolidinylcarbonyl)-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
A suspension of (2S,4R)-1-acetyl-4-hydroxy-2-pyrrolidinecarboxylic acid (173 mg, 1 mmol) in dichloromethane (10 ml) and DMF (2 ml) under nitrogen was treated successively with dicyclohexylcarbodiimide (227 mg, 1.1 mmol) and 1-hydroxybenzotriazole (149 mg, 1.1 mmol), then stirred at ambient temperature for 1 hour. A solution of 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (435 mg, 1 mmol) and N,N-diisopropylethylamine (258 mg, 2 mmol) in dichloromethane (5 ml) was added, and the mixture stirred for 18 hours. Solid was filtered off, the organic solution evaporated to dryness, and the residue purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 15% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product after trituration with diethyl ether (210 mg).

reactant | (2S,4R)-1-acetyl-4-hydroxy-2-pyrrolidinecarboxylic acid | 1 mmol, 173 mg | C(C)(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C7H11NO4
reactant | dicyclohexylcarbodiimide | 1.1 mmol, 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 1.1 mmol, 149 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 1 mmol, 435 mg | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
reactant | N,N-diisopropylethylamine | 2 mmol, 258 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(4-(4-((2S,4R)-1-Acetyl-4-hydroxy-2-pyrrolidinylcarbonyl)-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | C(C)(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C24H28FN5O7
